US07439395B2
1.14 g (15.59 mmol) of diethylamine and 10 ml of water are added with stirring to 2.0 g (7.73 mmol) of 1,3-dimethyl-2-chloroimidazolidinium dimethylphosphate. The reaction mixture is stirred for 10 minutes at room temperature, and 10 ml of ethanol are subsequently added. The solution is extracted 5 times with 30 ml of dichloromethane. Water is distilled off from the aqueous phase. The residue is dried for 4 hours under a reduced pressure of 7 Pa at an oil-bath temperature of 70-80° C., giving 1.85 g of 1,3-dimethyl-2-dimethylaminoimidazolidinium dimethylphosphate, corresponding to a yield of 81%.

reactant | diethylamine | 15.59 mmol, 1.14 g | C(C)NCC | C4H11N
reactant | water | 10 ml | O | H2O
reactant | 1,3-dimethyl-2-chloroimidazolidinium dimethylphosphate | 7.73 mmol, 2.0 g | COP(=O)(OC)[O-].C[NH+]1C(N(CC1)C)Cl
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,3-dimethyl-2-dimethylaminoimidazolidinium dimethylphosphate | 1.85 g, yield of 81% | COP(=O)(OC)[O-].C[NH+]1C(N(CC1)C)N(C)C | InChI=1S/C7H17N3.C2H7O4P/c1-8(2)7-9(3)5-6-10(7)4;1-5-7(3,4)6-2/h7H,5-6H2,1-4H3;1-2H3,(H,3,4)
